reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([O+:5]=[C-:4][N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.260243665526396
[N:1]([C:2]([C-:3]([N+:4]([H:11])([H:12])[H:13])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],23.997745824607698
[C:1](=[N:2][C:3]([N:4]([H:11])[H:12])=[C:5]([O-:6])[N+:7]([H:9])([H:13])[H:14])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],3.7565195117303176
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:7])[H:8].[H:6][H:9],108.54355895052099
[N:1](=[C:2](/[O:3]/[C:4](=[C:5](/[O:6][H:10])[H:11])[H:9])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],55.108375887392796
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](\[C:3]([H:11])([H:12])[H:13])(=[N:4]/[C:5](=[O:6])[H:15])[H:10],93.90198830903879
[C-:2]([O+:3]=[C:4]([H:12])[H:13])([H:10])[H:11].[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],37.5860254103421
[C-:5]#[O+:6].[C:1]([C+:2]([N:3]([H:10])[H:12])[N-:4][H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],32.032703807053956
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[C:4]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[C:5](=[C:6]([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17].[H:12][H:18],95.79220609397059
[C:1](=[C:2]([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])[H:9].[O:3]([H:10])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],58.2652663785418
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([O-:4])[N:5]([C+:6]([H:13])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:15],93.3923135580394
[C:1]([C:2]([C:3]#[N:4])([C:5](=[O:6])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.61573230205401
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([O:4][H:11])[C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9].[O:1]([H:7])[H:10],72.7204171457444
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[N:4]([H:15])[C@@:5]1([O:6][H:10])[C:7]([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],64.3005819916315
[O:1]([C:2]([C:3]1([C:6]([O:7][H:13])([H:12])[H:14])[C:4]([H:11])=[N:5]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],60.1919331068069
[C:1]([O:2][C:3]#[N+:4][N-:5][H:11])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],8.146475392507
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[C:5]([O:6][H:7])[H:12])([H:10])[H:11],55.509943067372205
[C:1]([N+:2](=[C-:3][N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],32.1470705676155
[C:1]1([H:7])([H:8])[O:2][C@:3]1([C:4]([O:5][H:11])([H:9])[H:10])[C:6][H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],4.846891322443497
[C-:3]#[O+:4].[C:1](=[O:2])([H:8])[H:9].[C:5](#[N:6])[H:7]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],56.23361206130569
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7].[O:4]=[C:5]=[O:6],81.1868233234902
[N:1]([c:2]1[n:3][n:4]([H:9])[c-:5][n+:6]1[H:10])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],43.4149224115142
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:7](=[C:6]=[C:4]=[O:5])[H:15])[H:11])([H:8])([H:9])[H:10],94.0604718742445
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10].[N:2](=[C:3]=[O:4])[H:11],87.1503040593472
